US04303660
20.4 g (0.1 mole) of 5-(o-aminophenyl)-4-nitropyrazole are dissolved in 200 ml of pyridine. To the solution obtained, 14.0 g (0.1 mole) of benzoyl chloride are added, drop by drop, and the temperature of the reaction mixture is increased by 10° to 15° C., spontaneously. The mixture is reacted for 2 hours, then poured into water, and the product that solidifies is filtered off and recrystallized from dichloroethane. Thus, 12.5 g (43%) of 1-nitro-5-phenylpyrazolo[1,5-c]quinazoline are obtained. M.p.: 187°-188° C.

reactant | 5-(o-aminophenyl)-4-nitropyrazole | 0.1 mole, 20.4 g | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | benzoyl chloride | 0.1 mole, 14.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1-nitro-5-phenylpyrazolo[1,5-c]quinazoline | 12.5 g, 43% | [N+](=O)([O-])C=1C=NN2C(=NC=3C=CC=CC3C21)C2=CC=CC=C2 | C16H10N4O2
